US04643990
Starting from N-(2-hexadecanoyloxyhexadecanoyl)-L-valine (2.4 g) prepared by the method of Preparation B-2 and dibenzyl L-glutamate (1.26 g), dibenzyl N-[N-(2-hexadecanoyloxyhexadecanoyl)-L-valyl]-L-glutamate (3.2 g) was obtained as crystals according to a similar manner to that of Example 2. M.p. 65° C.

reactant | N-(2-hexadecanoyloxyhexadecanoyl)-L-valine | 2.4 g | C(CCCCCCCCCCCCCCC)(=O)OC(C(=O)N[C@@H](C(C)C)C(=O)O)CCCCCCCCCCCCCC | C37H71NO5
reactant | dibenzyl L-glutamate | 1.26 g | N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C19H21NO4
product | dibenzyl N-[N-(2-hexadecanoyloxyhexadecanoyl)-L-valyl]-L-glutamate | 3.2 g | C(CCCCCCCCCCCCCCC)(=O)OC(C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)CCCCCCCCCCCCCC | C56H90N2O8
